US03953510
The method of claim 1 wherein nitrobenzene is reacted with ethanol to form p-ethoxyaniline.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | ethanol | C(C)O | C2H6O
product | p-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
